US08703797B2
2-(3-Fluoro-pyridin-4-yl)-propan-2-ol:
3-Fluoropyridine (11.0 g, 113.0 mmol) in 100 mL of THF was treated with LDA (1.5M, 100.0 mL, 150.0 mmol) at −78° C. for 50 min under argon. Acetone (28 mL) was added and the resulting reaction mixture was stirred at −78° C. to −40° C. for 50 min. The reaction was then quenched with aqueous NH4Cl and extracted with ether. The combined organic layers were washed with H2O and brine, then dried over Na2SO4 and concentrated under vacuum. Purification by MPLC (80 g column, 0 to 40% ethyl acetate in hexane as eluant) afforded the title compound. Spectroscopic data: 1H-NMR (300 MHz, CDCl3): δ ppm 1.65 (s, 6 H), 7.27 (dd, J=5.57 Hz, 1 H), 8.36-8.39 (m, 2 H).

reactant | 3-Fluoropyridine | 113.0 mmol, 11.0 g | FC=1C=NC=CC1 | C5H4FN
reactant | LDA | 150.0 mmol, 1.5M, 100.0 mL | [Li+].CC(C)[N-]C(C)C
reactant | Acetone | 28 mL | CC(=O)C | C3H6O
solvent | THF | 100 mL | C1CCOC1 | C4H8O
product | 2-(3-Fluoro-pyridin-4-yl)-propan-2-ol | FC=1C=NC=CC1C(C)(C)O | C8H10FNO
